US04168269
9,10-Dihydro-9-(2-methylallyl)-4H-thieno[3,4-b][1,5]benzodiazepine
A 4.9 g. portion of 4,9-dihydro-9-(2-methylallyl)-10H-thieno[3,4-b][1,5]benzodiazepin-10-one in 100 ml. of dried tetrahydrofuran is added with stirring and ice bath cooling, under nitrogen, to 2.9 g. of lithium aluminum hydride in 100 ml. of dried tetrahydrofuran. The mixture is refluxed overnight and then decomposed with stirring and cooling under nitrogen by the successive addition of 3 ml. of water, 3 ml. of 15% sodium hydroxide and 9 ml. of water. The complex is filtered and washed with ether. The combined filtrate and washing is dried over sodium sulfate, filtered and evaporated to a residue on a steam bath. The residue is recrystallized from hexane giving the desired product, mp. 83°-84° C.

reactant | 4,9-dihydro-9-(2-methylallyl)-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | CC(CN1C(C=2C(NC3=C1C=CC=C3)=CSC2)=O)=C | C15H14N2OS
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 9,10-Dihydro-9-(2-methylallyl)-4H-thieno[3,4-b][1,5]benzodiazepine | CC(CN1CC=2C(NC3=C1C=CC=C3)=CSC2)=C | C15H16N2S
